US08466186B2
(b) 4-Chloro-5-(3-dimethylaminomethyl-pyrrolidin-1-yl)-benzene-1,2-diamine
A mixture of 4-chloro-5-(3-dimethylaminomethyl-pyrrolidin-1-yl)-2-nitroaniline (630 mg, 2.1 mmol), EtOAc (20 mL) and Ra—Ni (150 mg) was stirred for 2 days at rt under a hydrogen atmosphere (3.0 bar). The catalyst was removed by filtration and the filtrate was concentrated. The crude was purified by chromatography to give the sub-title compound.

reactant | 4-chloro-5-(3-dimethylaminomethyl-pyrrolidin-1-yl)-2-nitroaniline | 2.1 mmol, 630 mg | ClC1=CC(=C(N)C=C1N1CC(CC1)CN(C)C)[N+](=O)[O-] | C13H19ClN4O2
catalyst | Ra—Ni | 150 mg | [Ni] | Ni
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | 4-Chloro-5-(3-dimethylaminomethyl-pyrrolidin-1-yl)-benzene-1,2-diamine | ClC=1C=C(C(=CC1N1CC(CC1)CN(C)C)N)N | C13H21ClN4
